US04238626
A mixture of 94 g of 4-chloro-3,5-dimethyl-phenol, 129 g of 4-bromo-2,6-dimethyl-anisole, 40 g of potassium hydroxide and 5 g of copper powder was slowly heated to 180°-190° C. During this operation, first the corresponding potassium phenolate formed, and the water formed separated by distillation with a small amount of 4-bromo-2,6-dimethylanisole. At about 200°-220° C., further reaction yielding phenoxy-anisole took place. After about 4 to 5 hours, the reaction was complete. The cooled substance was extracted to exhaustion with a solvent which is not miscible with water, such as methylene chloride. The filtrate of inorganic salts formed was then shaken several times with 2 N sodium hydroxide solution and water. After vaporization of methylene chloride a crude product was obtained which was still contaminated by 4-bromo-2,6-dimethyl-anisole. After distillation, 86 g of 4(4-chloro-3,5-dimethyl-phenoxy)-2,6-dimethyl-anisole were obtained, boiling point: 186° C. under a pressure of 3 mm mercury.

reactant | sodium hydroxide | 2 N | [OH-].[Na+]
reactant | water | O | H2O
reactant | 4-bromo-2,6-dimethyl-anisole | BrC1=CC(=C(C(=C1)C)OC)C | C9H11BrO
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
product | 4(4-chloro-3,5-dimethyl-phenoxy)-2,6-dimethyl-anisole | 86 g | ClC1=C(C=C(OC2=CC(=C(C(=C2)C)OC)C)C=C1C)C | C17H19ClO2
